* Z:\home\max\git\knightrider\LTSpiceFiles\autoVoltage.asc
V1 N004 0 PULSE(0 5 1 0 0 2 2 1)
XU1 N004 0 0 N003 N005 N002 LTC4412
M1 N004 N005 N002 N002 Si4465DY
M2 N001 N003 N002 N002 Si4465DY
V2 N001 0 4.5
R3 N002 0 10 pwr=100
R1 N002 N003 470K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 5
.lib LTC4412.sub
.backanno
.end
